US08211662B2
1. N-Phenylethyl-2-nitroaniline (VLS 209)
A mass of 4.8 g (0.04 mol) of 2-phenylethylamine was added dropwise, at ambient temperature, to a mixture of 5.6 g (0.04 mol) of 2-fluoronitrobenzene and 11.06 g (0.08 mol) of anhydrous potassium carbonate in 30 ml of DMSO. The mixture was heated at 100° C. for 3 hours. The mixture was then cooled to ambient temperature and was added to 100 ml of water, which resulted in the precipitation of a light orange compound. The solid was recovered by filtration and dried using a desiccator at reduced pressure. A mass of 9.4 g of orange crystals was obtained with a yield of 98%. The melting point found was coherent with the theoretical value, i.e. 64-66° C.

reactant | 2-phenylethylamine | 0.04 mol, 4.8 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | 2-fluoronitrobenzene | 0.04 mol, 5.6 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 0.08 mol, 11.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | N-Phenylethyl-2-nitroaniline | 9.4 g, yield of 98% | C1(=CC=CC=C1)CCNC1=C(C=CC=C1)[N+](=O)[O-] | C14H14N2O2
